US06492403B1
Methyl 4-(2-bromoacetyl)-5-methylthiothiophene-2-carboxylate (90 mg, 0.28 mmol) was allowed to react with amino[(7-bromofluoren-2-yl)amino]methane-1-thione (92.8 mg) as described in Example 154, step (a) to give 141 mg (82% yield) of methyl 4-{2-[(7-bromofluoren-2-yl)amino](1,3-thiazol-4-yl)}-5-methylthiothiophene-2-carboxylate hydrobromide. 1H NMR (DMSO-d6, 300 MHz) δ2.70 (s, 3H), 3.83 (s, 3H), 3.93 (s, 2H), 7.33 (s, 1H), 7.51 (dd, 1H, J=1.9, 8.0 Hz), 7.65 (dd, 1H, J=2.0, 8.4 Hz), 7.74 (ad, 2H, J=8.3 Hz), 7.83 (ad, 1H, J=8.4 Hz), 8.18 (s, 1H), 8.23 (d, 1H, J=1.4 Hz), 10.47 (s, 1H).

reactant | Methyl 4-(2-bromoacetyl)-5-methylthiothiophene-2-carboxylate | 0.28 mmol, 90 mg | BrCC(=O)C=1C=C(SC1C)C(=S)OC | C9H9BrO2S2
reactant | amino[(7-bromofluoren-2-yl)amino]methane-1-thione | 92.8 mg | NC(=S)NC1=CC=2CC3=CC(=CC=C3C2C=C1)Br | C14H11BrN2S
product | methyl 4-{2-[(7-bromofluoren-2-yl)amino](1,3-thiazol-4-yl)}-5-methylthiothiophene-2-carboxylate hydrobromide | 141 mg, 82% yield | Br.BrC1=CC=C2C=3C=CC(=CC3CC2=C1)NC=1SC=C(N1)C=1C=C(SC1C)C(=S)OC | InChI=1S/C23H17BrN2OS3.BrH/c1-12-19(10-21(30-12)22(28)27-2)20-11-29-23(26-20)25-16-4-6-18-14(9-16)7-13-8-15(24)3-5-17(13)18;/h3-6,8-11H,7H2,1-2H3,(H,25,26);1H
